US07396952B2
4.0 g (10.0 mmol) of 2-hexadecyloxycarbonylamino-5-methylbenzoic acid are introduced into 20 ml of pyridine at 0° C. under a nitrogen atmosphere, and 4.93 g (45.4 mmol) of ethyl chloroformate are added dropwise to the resulting solution at 0° C. over the course of 20 min. After the reaction mixture has been stirred at 0° C. for 1 h and at room temperature for 2 h it is added to 30 ml of ice-water. The solid is filtered off and dried in vacuo. 3.3 g (8.2 mmol, 82%) of 2-hexadecyloxy-6-methyl-4H-3,1-benzoxazin-4-one are obtained in the form of a pale yellow coloured solid with a melting point of 67° C. (literature: 72-73° C., WO 00/40569).

reactant | 2-hexadecyloxycarbonylamino-5-methylbenzoic acid | 10.0 mmol, 4.0 g | C(CCCCCCCCCCCCCCC)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C | C25H41NO4
reactant | ethyl chloroformate | 45.4 mmol, 4.93 g | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-hexadecyloxy-6-methyl-4H-3,1-benzoxazin-4-one | 8.2 mmol, 3.3 g, 82% | C(CCCCCCCCCCCCCCC)OC1=NC2=C(C(O1)=O)C=C(C=C2)C | C25H39NO3
